US20010018525A1
step 4 4-Methoxybenzoic acid 6-[(2′-hydroxyethoxy-3,3″-dichloro-[1,1′;3′,1″]terphenyl-5′-carbonyl)-amino]-hexyl ester
The product was prepared as a colorless, viscous oil (0.675 g, 71%) from 3,5-bis(3-chlorophenyl)-4-(2-hydroxyethoxy)benzoic acid (0.605 g, 1.5 mmol) and 4-methoxybenzoic acid, 6-aminohexyl ester (0.565 g, 2.25 mmol) using a procedure similar to step 3 of example 164; 1H NMR (400 MHz, DMSO-d6) 1.33-1.46 (m, 4H), 1.50-1.58 (m. 2H),1.65-1.73 (m, 2H), 3.10-3.15 (m, 2H), 3.22-3.30 (m, 4H), 3.80 (s, 3H), 4.21 (t, J=6.6 Hz, 2H), 4.44 (t, J=6.6 Hz, 1H), 6.99-7.03 (m, 2H), 7.45-7.52 (m, 4H), 7.57-7.61 (m, 2H), 7.69 (s, 2H), 7.85-7.91 (m, 4H), 8.56 (t, J=5.5 Hz, 1H); IR (film) 3350, 2940, 1710, 1640, 1605, 1540, 1510, 1275 cm−1; mass spectrum[(+)ESI], m/z 636 (M+H)+.

reactant | 3,5-bis(3-chlorophenyl)-4-(2-hydroxyethoxy)benzoic acid | 1.5 mmol, 0.605 g | ClC=1C=C(C=CC1)C=1C=C(C(=O)O)C=C(C1OCCO)C1=CC(=CC=C1)Cl | C21H16Cl2O4
reactant | 4-methoxybenzoic acid, 6-aminohexyl ester | 2.25 mmol, 0.565 g | COC1=CC=C(C(=O)OCCCCCCN)C=C1 | C14H21NO3
product | 4-Methoxybenzoic acid 6-[(2′-hydroxyethoxy-3,3″-dichloro-[1,1′;3′,1″]terphenyl-5′-carbonyl)-amino]-hexyl ester | OCCOC1=C(C=C(C=C1C1=CC(=CC=C1)Cl)C(=O)NCCCCCCOC(C1=CC=C(C=C1)OC)=O)C1=CC(=CC=C1)Cl | C35H35Cl2NO6
